US03993683
[1-(4-Biphenylyl)-ethylsulfonyl]-acetic acid methyl ester
17.0 gm (56 millimols) of [1-(4-biphenylyl)-ethyl-sulfonyl]-acetic acid were dissolved in 100 ml of methanol, and 3 ml of phosphorus oxychloride were added to the solution while cooling on ice. The mixture was heated to 35° C and was then allowed to stand overnight at room temperature. The crystalline reacton product which had separated out was suction-filtered off and recrystallized from 50 ml of isopropanol. Yield: 14.8 gm (83% of theory); m.p. 79°-80° C.

reactant | [1-(4-biphenylyl)-ethyl-sulfonyl]-acetic acid | 56 millimols, 17.0 gm | C1(=CC=C(C=C1)C(C)S(=O)(=O)CC(=O)O)C1=CC=CC=C1 | C16H16O4S
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methanol | 100 ml | CO | CH4O
product | [1-(4-Biphenylyl)-ethylsulfonyl]-acetic acid methyl ester | COC(CS(=O)(=O)C(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H18O4S
